US06211234B1
Diisopropyl azodicarboxylate (1.19 g) is added to a stirred solution of triphenylphosphine (1.55 g) in tetrahydrofuran (30 mL) at 0° C. under nitrogen and stirring is continued at 0° C. for 30 minutes. A solution of isothiazol-4-ylmethanol (0.34 g) and 2-fluoro-4-hydroxybenzonitrile (0.4 g) in tetrahydrofuran (30 mL) is added at such a rate that the temperature did not exceed 0° C. After the addition is complete stirring is continued at 0° C. for 30 minutes then at ambient temperature for 24 hours. The reaction mixture is concentrated in vacuo and the residue is partitioned between ethyl acetate (50 mL) and water (50 mL). The organic phase is washed with water (50 mL), with brine (50 mL), dried over magnesium sulphate and evaporated. The residue is purified by flash chromatography on silica eluting with dichloromethane. Fractions homogeneous in the required product are combined and evaporated to give 2-fluoro-4-(isothiazol-4-ylmethoxy)benzonitrile (0.24 g), m.p. 102-105° C.

reactant | Diisopropyl azodicarboxylate | 1.19 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 1.55 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | isothiazol-4-ylmethanol | 0.34 g | S1N=CC(=C1)CO | C4H5NOS
reactant | 2-fluoro-4-hydroxybenzonitrile | 0.4 g | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2-fluoro-4-(isothiazol-4-ylmethoxy)benzonitrile | 0.24 g | FC1=C(C#N)C=CC(=C1)OCC=1C=NSC1 | C11H7FN2OS
